US04472425
EXAMPLE 4: Methyl 2-(2,4-dimethylthien-3-yl)-2-(methoxyacetyl)-1-methyl-hydrazinecarboxylate (process c)
0.73 g (0.03 mol) NaH and 7.95 (0.03 mol) methyl 2-(2,4-dimethylthien-3-yl)-2-(methoxyacetyl)-hydrazinecarboxylate in 100 ml dry toluene are heated under reflux for 3 hours. The reaction mixture is then, together with 9.52 g (0.067 mol) CH3J, transferred into a sealed cylinder and heated 20 hours at 110°. The mixture is, after cooling, diluted with diethylether, washed with water, dried and evaporated to yield the title compound.

reactant | NaH | 0.03 mol, 0.73 g | [H-].[Na+]
reactant | methyl 2-(2,4-dimethylthien-3-yl)-2-(methoxyacetyl)-hydrazinecarboxylate | CC=1SC=C(C1N(NC(=O)OC)C(COC)=O)C | C11H16N2O4S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethylether | C(C)OCC | C4H10O
product | Methyl 2-(2,4-dimethylthien-3-yl)-2-(methoxyacetyl)-1-methyl-hydrazinecarboxylate | CC=1SC=C(C1N(N(C(=O)OC)C)C(COC)=O)C | C12H18N2O4S
